US09403818B2
Preparation of methyl 8-(6-amino-pyridin-3-yl)-1-cyclopropyl-7,9-dimethyl-4-oxo-4H-quinolizine-3-carboxylate
Methyl 8-(6-amino-pyridin-3-yl)-1-cyclopropyl-7,9-dimethyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A from methyl 8-chloro-1-cyclopropyl-7,9-dimethyl-4-oxo-4H-quinolizine-3-carboxylate (50 mg, 0.16 mmol) and 2-amino-pyridine-5-boronic acid pinacol ester (43 mg, 0.20 mmol). Purification by flash silica column chromatography (DCM:MeOH) (1:0 to 25:4) afforded the title compound as a yellow solid (44 mg, 69%).

reactant | methyl 8-chloro-1-cyclopropyl-7,9-dimethyl-4-oxo-4H-quinolizine-3-carboxylate | 0.16 mmol, 50 mg | ClC=1C(=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O)C | C16H16ClNO3
reactant | 2-amino-pyridine-5-boronic acid pinacol ester | 0.20 mmol, 43 mg | NC1=NC=C(C=C1)B1OC(C)(C)C(C)(C)O1 | C11H17BN2O2
product | methyl 8-(6-amino-pyridin-3-yl)-1-cyclopropyl-7,9-dimethyl-4-oxo-4H-quinolizine-3-carboxylate | 44 mg, 69% | NC1=CC=C(C=N1)C=1C(=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O)C | C21H21N3O3
